US05599966
A6. (12-Bromo-1-dodecyl)4-phenylbutanoate
From 12-bromo-1-dodecanol and 4-phenylbutyric acid. Yield: 85% (oil).

reactant | 12-bromo-1-dodecanol | BrCCCCCCCCCCCCO | C12H25BrO
reactant | 4-phenylbutyric acid | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
product | (12-Bromo-1-dodecyl)4-phenylbutanoate | Yield: 85% | BrCCCCCCCCCCCCOC(CCCC1=CC=CC=C1)=O | C22H35BrO2
